US08486952B2
2-chloro-7-(4-fluorophenyl)-4-((S)-3-fluoropyrrolidin-1-yl)-6,7-dihydro-5H cyclopenta[d]pyrimidine
To a solution of 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (135 mg, 0.477 mmol) in MeOH (4768 μL) was added DIPEA (208 μL, 1.192 mmol), then (S)-3-fluoropyrrolidine (46.7 mg, 0.524 mmol). The reaction was allowed to stir at ambient temperature for 2 h. The solvent was removed and the residue applied to Silica gel and eluted with an EtOAc/Hex gradient to afford two diasteriomers (Hp1 and Hp2). Hp1: LC-MS (M+H)+=336.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.06-7.13 (2H, m), 6.93-7.00 (2H, m), 5.32 (1H, td, J=52.57, 3.17 Hz), 4.17 (1H, dd, J=9.16, 5.49 Hz), 4.06-4.14 (1H, m), 3.98-4.06 (1H, m), 3.76-3.90 (2H, m), 3.25 (1H, ddd, J=15.11, 8.55, 6.26 Hz), 3.08-3.16 (1H, m), 2.51-2.60 (1H, m, J=13.20, 9.12, 9.12, 6.41 Hz), 2.32-2.42 (1H, m), 2.00-2.17 (2H, m). Hp2: LC-MS (M+H)+=336.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.06-7.14 (2H, m), 6.94-7.02 (2H, m), 5.25-5.40 (1H, m), 3.99-4.24 (3H, m), 3.75-3.92 (2H, m), 3.19-3.28 (1H, m), 3.10-3.19 (1H, m), 2.57 (1H, dddd, J=13.24, 8.74, 8.55, 4.58 Hz), 2.31-2.43 (1H, m), 1.94-2.17 (2H, m)

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.477 mmol, 135 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | DIPEA | 1.192 mmol, 208 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-fluoropyrrolidine | 0.524 mmol, 46.7 mg | F[C@@H]1CNCC1 | C4H8FN
solvent | MeOH | 4768 μL | CO | CH4O
product | 2-chloro-7-(4-fluorophenyl)-4-((S)-3-fluoropyrrolidin-1-yl)-6,7-dihydro-5H cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2C[C@H](CC2)F | C17H16ClF2N3
